US08119627B2
To a solution of 3-hydroxy-6-methylpyridine (1.0 g, 9.16 mmol) in DMF (5 ml) at room temperature was added potassium carbonate (2.53 g, 18.32 mmol) in DMF (10 mL) and the mixture was stirred at room temperature for 15 min. Then, 4-chloro-3-nitropyridine (1.45 g, 9.16 mmol) was added and the resulting solution was stirred at room temperature for 2 h. The mixture was poured into water and extracted with EtOAc. The organic layer was washed with water and brine, dried (MgSO4), filtered and evaporated. 4-(6-Methylpyridin-3-yloxy)-3-nitropyridine (2.1 g, 100%) was obtained as an orange oil, which precipitated on standing, mp 87-90° C., and was used in the next step without further purification.

reactant | 3-hydroxy-6-methylpyridine | 9.16 mmol, 1.0 g | OC=1C=NC(=CC1)C | C6H7NO
reactant | potassium carbonate | 18.32 mmol, 2.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro-3-nitropyridine | 9.16 mmol, 1.45 g | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-(6-Methylpyridin-3-yloxy)-3-nitropyridine | 2.1 g, 100% | CC1=CC=C(C=N1)OC1=C(C=NC=C1)[N+](=O)[O-] | C11H9N3O3
